US05972975
2,5-Hexanedione (3.6 mL, 30.7 mmol) was added to a solution of (S)-2-amino-1-propanol (2.44 g, 32.5 mmol) in 15 mL of methanol. The mixture was stirred at reflux for 2 h. After concentrating in vacuo, the residue was dissolved in 100 mL of ethyl acetate and washed with 50 1 mL of saturated aqueous sodium bicarbonate and 50 mL of saturated aqueous sodium chloride. The organic layer was dried (sodium sulfate), decanted, and evaporated to give a yellow solid. Flash column chromatography on 150 g of silica gel using 2.5 L of 15% ethyl acetate/hexane to furnish 4.53 g (96% yield) of (S)-1-(2-hydroxy-1-methylethyl)-2,5-dimethylpyrrole as a white solid.

reactant | 2,5-Hexanedione | 30.7 mmol, 3.6 mL | CC(CCC(C)=O)=O | C6H10O2
reactant | (S)-2-amino-1-propanol | 32.5 mmol, 2.44 g | N[C@H](CO)C | C3H9NO
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | methanol | 15 mL | CO | CH4O
product | (S)-1-(2-hydroxy-1-methylethyl)-2,5-dimethylpyrrole | 4.53 g, 96% yield | OC[C@H](C)N1C(=CC=C1C)C | C9H15NO
